US04013643
By substituting equivalent quantities of 2,3-di(3-methoxyphenyl)allyl chloride and dimethylamine in the procedure of Example 3, there is produced N,N-dimethyl-2,3-di(3-methoxyphenyl)allylamine hydrochloride.

reactant | 2,3-di(3-methoxyphenyl)allyl chloride | COC=1C=C(C=CC1)C(CCl)=CC1=CC(=CC=C1)OC | C17H17ClO2
reactant | dimethylamine | CNC | C2H7N
product | N,N-dimethyl-2,3-di(3-methoxyphenyl)allylamine hydrochloride | Cl.CN(C)CC(=CC1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC | InChI=1S/C19H23NO2.ClH/c1-20(2)14-17(16-8-6-10-19(13-16)22-4)11-15-7-5-9-18(12-15)21-3;/h5-13H,14H2,1-4H3;1H
